US06331506B1
Methyl 4(cyanoethoxycarbonylmethylidenehydrazino)2-[3-(4,6-dimethoxypyrimidin-2-yl)ureidosulfonyl]benzoate
0.7 g (1.25 mmol) of methyl 4-(cyanoethoxycarbonylmethylhydrazino)-2-[3-(4,6-dimethoxypyrimidin-2-yl)ureidosulfonyl]benzoate, sodium salt, are dissolved in 15 ml of water. The few undissolved components are filtered off and the filtrate is acidified to pH 1 using 2N hydrochloric acid. The precipitated solid is filtered off with suction, washed with water and dried. This gives 0.5 g (75% of theory) of methyl 4-(cyanoethoxycarbonyl-methyldenhydrazino)-2-[3-(4,6-dimethoxypyrimidin-2-yl) ureidosulfonyl]benzoate of m.p. 145° C. (decomp.)

reactant | methyl 4-(cyanoethoxycarbonylmethylhydrazino)-2-[3-(4,6-dimethoxypyrimidin-2-yl)ureidosulfonyl]benzoate | 1.25 mmol, 0.7 g | C(#N)CCOC(=O)CNNC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C20H23N7O9S
reactant | sodium | [Na] | Na
solvent | water | 15 ml | O | H2O
product | Methyl 4(cyanoethoxycarbonylmethylidenehydrazino)2-[3-(4,6-dimethoxypyrimidin-2-yl)ureidosulfonyl]benzoate | C(#N)CCOC(=O)C=NNC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C20H21N7O9S
